US05498718
A. Preparation of 3-bromo-isopropoxybenzene
The following reagents were combined sequentially: anhydrous ethanol (880 ml), potassium carbonate (448.0 g), 3-bromophenol (386.7 g), 2-bromopropane (400.0 g) and finally water (88 ml). The mixture was heated at reflux (78° C.) for 16 hours. Water (880 ml) was added to the reaction mixture and 900 ml of solvent was removed by distillation at atmospheric pressure during a 4 hour period. Heptane (880 ml) was added to the reaction mixture and later separated. The aqueous layer was extracted with heptane (80 ml) and the combined organic fractions were washed sequentially with 1N HCl (300 ml), water (300 ml), 1N NaOH (300 ml) and water (300 ml). Removal of the solvent by rotary evaporation (50° C., 5 mmHg) afforded 453.6 g (97%) of crude product. This was distilled through a short path distillation column (81°-85° C., 2 mmHg) to provide 431.5 g of the product as a colorless liquid.

reactant | ethanol | 880 ml | C(C)O | C2H6O
reactant | potassium carbonate | 448.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromophenol | 386.7 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 2-bromopropane | 400.0 g | BrC(C)C | C3H7Br
solvent | Water | 880 ml | O | H2O
solvent | water | 88 ml | O | H2O
product | 3-bromo-isopropoxybenzene | 431.5 g | BrC=1C=C(C=CC1)OC(C)C | C9H11BrO
